US04804665
8-Methyl-2-methylamino-2,8-diazaspiro[4,5]decane-1,3-dione.hydrochloride
In dimethylformamide (30 ml) was dissolved (1-methyl-4-carboxypiperidin-4-yl)acetic acid.hydrochloride (1.9g). To the solution was added dicyclohexylcarbodiimide (1.82 g), and the mixture was stirred for one hour, to which was added methylhydrazine (0.43 ml). The mixture was stirred at 60° C. for one full day. Precipitates were removed, and the solvent was evaporated off under reduced pressure. The residual oily product was subjected to a silica gel column chromatography [eluent; n-butanol:acetic acid:methanol:water=1:1:1:1 (V/V)]. To the solution containing the desired product was added 4 ml of 1N hydrochloric acid. Then, the solvent was evaporated off, and the residual solid product was recrystallized from ethanol to obtain 0.25 g of colorless solid, m.p. 235° to 260° C.

reactant | (1-methyl-4-carboxypiperidin-4-yl)acetic acid.hydrochloride | 1.9g | Cl.CN1CCC(CC1)(C(=O)O)CC(=O)O
reactant | dicyclohexylcarbodiimide | 1.82 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | methylhydrazine | 0.43 ml | CNN | CH6N2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 8-Methyl-2-methylamino-2,8-diazaspiro[4,5]decane-1,3-dione.hydrochloride | 0.25 g | Cl.CN1CCC2(CC(N(C2=O)NC)=O)CC1 | InChI=1S/C10H17N3O2.ClH/c1-11-13-8(14)7-10(9(13)15)3-5-12(2)6-4-10;/h11H,3-7H2,1-2H3;1H
